US03969464
Following the procedure of Example 1 but using 0.506 g. of PGA1 0.250 ml. of triethylamine, 0.236 ml. of isobutylchloroformate, and 0.412 g. of p-hydroxybenzamide there is obtained a crude residue. This residue is subjected to silica gel chromatography, eluting with chloroform-acetonitrile (6:4). The residue obtained by concentration of selected fractions, 0.260 g., an oil, as the title compound, having Rf 0.5 (TLC on silica gel in chloroform-acetonitrile (3:2)).

reactant | PGA1 | 0.250 ml | CCCCC[C@@H](/C=C/[C@H]1C=CC(=O)[C@@H]1CCCCCCC(=O)O)O | C20H32O4
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | p-hydroxybenzamide | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
